US09328090B2
Step 6: (3aR,6aR)-1-(5-iodopyridin-2-yl)hexahydrocyclopenta[b]pyrrol-2(1H)-one
To a solution of (3aR,6aR)-hexahydrocyclopenta[b]pyrrol-2(1H)-one (210 mg, 1.68 mmol) and 2-fluoro-5-iodopyridine (412 mg, 1.85 mmol, 1.1 equiv.) in toluene (1.1 ml) were added Cs2CO3 (656 mg, 2.01 mmol, 1.2 equiv.) The reaction was stirred for 16 h at 105° C. The residue was taken up in ethyl acetate, the solids were filtered off and washed with ethyl acetate. The filtrate was concentrated in vaccuo and the residue was purified by flash chromatography (SiO2, 20 g) using a 0% to 60% ethyl acetate in heptane gradient. One obtains the title compound, (300 mg 55%), as a colorless oil, MS: m/e=329.4 (M+H+).

reactant | (3aR,6aR)-hexahydrocyclopenta[b]pyrrol-2(1H)-one | 1.68 mmol, 210 mg | N1[C@H]2[C@@H](CC1=O)CCC2 | C7H11NO
reactant | 2-fluoro-5-iodopyridine | 1.85 mmol, 412 mg, 1.1 equiv. | FC1=NC=C(C=C1)I | C5H3FIN
reactant | Cs2CO3 | 2.01 mmol, 656 mg, 1.2 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 1.1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3aR,6aR)-1-(5-iodopyridin-2-yl)hexahydrocyclopenta[b]pyrrol-2(1H)-one | 300 mg, 55% | IC=1C=CC(=NC1)N1[C@H]2[C@@H](CC1=O)CCC2 | C12H13IN2O
